US05650511
2-Methyl-2-thiopseudourea sulfate (15 g; 53.9 mmol; 1 eq) was suspended in 20 mL of water and cooled to 0°-5° C. Ethyl chloroformate (29.2 g, 269 mmol; 5 eq) was added and the mixture was stirred for 5 minutes. Sodium hydroxide solution (25% w/w) was added drop-wise until the pH reached 8 (by pH paper). The white solid was collected by filtration and air dried to give 1,3-dicarboethoxy-2-methyl-2-thiopseudourea (22.2 g, 88%) as a white solid, mp 42°-44° C. A small portion was dried in vacuo for analysis.

reactant | 2-Methyl-2-thiopseudourea sulfate | 53.9 mmol, 15 g, 1 eq | S(=O)(=O)(O)O.CSC(N)=N
reactant | Ethyl chloroformate | 269 mmol, 29.2 g, 5 eq | ClC(=O)OCC | C3H5ClO2
reactant | Sodium hydroxide | [OH-].[Na+]
solvent | water | 20 mL | O | H2O
product | 1,3-dicarboethoxy-2-methyl-2-thiopseudourea | 22.2 g, 88% | C(=O)(OCC)NC(SC)=NC(=O)OCC | C8H14N2O4S
